US04244730
Preparation of N-Chloroacetyl-2-methyl-6-acetylaniline
2-Methyl-6-acetylaniline (25 g) and pyridine (26.5 g) in 1 liter methylene chloride were cooled in an ice-acetone bath. A solution of chloroacetyl chloride (37.9 g) in 100 ml methylene chloride was dripped in slowly. The solution was stirred at room temperature for 2 hours, washed with 10% HCl, 10% NaOH, dried (MgSO4) and stripped. Yield: the title product as a white solid, MP 88°-89° C.

reactant | 2-Methyl-6-acetylaniline | 25 g | CC1=C(N)C(=CC=C1)C(C)=O | C9H11NO
reactant | pyridine | 26.5 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 37.9 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Chloroacetyl-2-methyl-6-acetylaniline | ClCC(=O)NC1=C(C=CC=C1C(C)=O)C | C11H12ClNO2
